US07723329B2
Step 4) 3-(Naphthalene-1-sulfonyl)-1H-indazole-5-carbaldehyde
A mixture of 4-amino-3-(naphthalene-1-sulfonylmethyl)-benzaldehyde (2.4 g, 6.85 mmoles) in THF (10 mL) and 4M HCl (20 mL) was stirred in a round bottom flask at 3° C. A solution of sodium nitrite (0.49 g, 7.19 mmoles in H2O (2 mL) was added. The reaction mixture was poured into a cold solution of saturated sodium bicarbonate (100 mL) and extracted with EtOAc. Compound was dried over Na2SO4, and concentrated under vacuum to afford the title compound as an off white solid (1.84 g, 5.5 mmoles).

reactant | 4-amino-3-(naphthalene-1-sulfonylmethyl)-benzaldehyde | 6.85 mmoles, 2.4 g | NC1=C(C=C(C=O)C=C1)CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C18H15NO3S
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | HCl | 4M, 20 mL | Cl | ClH
solvent | H2O | 2 mL | O | H2O
product | 3-(Naphthalene-1-sulfonyl)-1H-indazole-5-carbaldehyde | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)C=O | C18H12N2O3S
